US07592373B2
4.270.c. 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-{3-methoxy-4-[2-(4-methylpiperidin-1-yl)ethoxy]phenyl}amide
Prepared analogously to Example 2.3.f. from (2-chloro-4-trifluoromethylphenyl)propynoic acid and 3-methoxy-4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylamine. Yield: 70 mg (23.5% of theory); melting point: 207° C.-209° C.; C25H26ClF3N2O3 (M=494.94); calc.: molecular ion peak (M+H)+: 495/497; found: molecular ion peak (M+H)+: 495/497; Rf value: 0.45 (silica gel, dichloromethane/methanol (9:1)).

reactant | (2-chloro-4-trifluoromethylphenyl)propynoic acid | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)O | C10H4ClF3O2
reactant | 3-methoxy-4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylamine | COC=1C=C(C=CC1OCCN1CCC(CC1)C)N | C15H24N2O2
solvent | dichloromethane methanol | ClCCl.CO
product | 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-{3-methoxy-4-[2-(4-methylpiperidin-1-yl)ethoxy]phenyl}amide | COC=1C=C(C=CC1OCCN1CCC(CC1)C)NC(C#CC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C25H26ClF3N2O3
